US06410556B1
A solution of 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (500 mg, 1.29 mmol) and 4-phenoxybenzaldehyde (256 mg, 1.29 mmol) was heated to 50° C. in ethanol (50 ml) for 1 hour in the presence of molecular sieves (4 A, 5 ml). The reaction mixture was cooled on an ice bath before sodium borohydride (98 mg, 2.59 mmol) was added in three portions over 45 min. The cooling bath was removed and the reaction mixture was allowed to reach room temperature. The mixture was filtered through a plug of Celite and the filter cage was washed with dichloromethane (3×25 ml). The solvent was removed in vacuo and the residue was redissolved in ethyl acetate (50 ml), washed with sodium bicarbonate (50 ml) and dried (MgSO4). The solvent was removed in vacuo before the product was dissolved in dichloromethane (10 ml). The solution was cooled on an ice bath before di-isopropyl-ethyl amine (101 mg, 1.29 mmol) was added followed by drop wise addition of acetyl chloride (101 mg, 1.29 mmol) in dichloromethane (1 ml). The reaction mixture was stirred 1 hour at 0° C. and the solution was washed with sodium bicarbonate (10 ml) and dried (MgSO4). The crude product was purified by flash column chromatography (SiO2, ethyl acetate-petrol ether 1:3) to give 320 mg (41%) of 7-(S)-((acetyl-(4-phenoxy-benzyl)amino)methyl)-2-amino-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid

reactant | 2-amino-7-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.29 mmol, 500 mg | C(C)(C)(C)OC(=O)C1=C(SC=2[C@@H](N(CCC21)[C@@H](C)C2=CC=CC=C2)CN)N | C21H29N3O2S
reactant | 4-phenoxybenzaldehyde | 1.29 mmol, 256 mg | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | sodium borohydride | 2.59 mmol, 98 mg | [BH4-].[Na+]
reactant | di-isopropyl-ethyl amine | 1.29 mmol, 101 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 1.29 mmol, 101 mg | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 7-(S)-((acetyl-(4-phenoxy-benzyl)amino)methyl)-2-amino-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid | 320 mg, 41% | C(C)(=O)N(CC1=CC=C(C=C1)OC1=CC=CC=C1)C[C@@H]1N(CCC2=C1SC(=C2C(=O)O)N)[C@@H](C)C2=CC=CC=C2 | C32H33N3O4S
